US04576749
(A) (2,2-Dimethoxyethyl)(2-phenylmethoxy-2-oxoethyl)amine
A solution of aminoacetaldehyde dimethyl acetal (2.2 ml, 0.04 mole) in ether (10 ml) was cooled to 0° C. Benzyl bromoacetate (1.6 ml, 0.02 mole) was added. After stirring at ambient temperature overnight, the solid aminoacetaldehyde dimethyl acetal hydrobromide was filtered and the solution was concentrated to an oil. Flash chromatography on silica (LPS-1) (40:60 ethyl acetate:hexane eluant) gave 2.2 gms of the purified title compound.

reactant | aminoacetaldehyde dimethyl acetal | 0.04 mole, 2.2 ml | COC(CN)OC | C4H11NO2
reactant | Benzyl bromoacetate | 0.02 mole, 1.6 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | ether | 10 ml | CCOCC | C4H10O
product | (2,2-Dimethoxyethyl)(2-phenylmethoxy-2-oxoethyl)amine | COC(CNCC(=O)OCC1=CC=CC=C1)OC | C13H19NO4
